Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
lisinopril
 
Attending: ___
 
Chief Complaint:
heavy and painful periods, fibroids
 
Major Surgical or Invasive Procedure:
Total laparoscopic hysterectomy 
Bilateral salpingectomy 

 
History of Present Illness:
 She continues to have heavy periods with large clots. Tried 
briefly mirena IUD in the past. Has to stay home from work on 
many occasions. Has soaked through her clothes at work a few 
times. Large clots. Accompanied by moderate to severe cramps. 
Periods are now q 3 wks. Since last period in end of ___ she has 
has on and off spotting. 
Not sexually active. 
Has deferred intervention in the past for many years, Now 
interested in a hysterectomy. We have discussed possibility of 
adenomyosis and endometriosis 
 
Also h/o IC and two prior sling procedures with Dr ___. She 
reports increased urinary frequency and occasional urinary 
incontinence. Unable to sleep at night due to urgency and 
frequency. She was prescribed oxycodone by Dr ___ 
she takes as needed and says has helped the bladder pain. During 
her period, unable to tell menstrual cramps from bladder spasms. 
She has previously seen Dr ___ has tried amitryptiline, 
oxybutinin ( bothered by s/e). Wanted to see a female 
urogynecologist and was referred to Dr ___ at ___ last year, 
was unable to see her due to busy work schedule. 
 
PUS : 
Uterus
=======
  
Visualized. Long 12.0 cm x AP 7.0 cm x Tr 8.7 cm. Vol. 382.6 
cm³.
Position: anteverted
Endometrial thickness, total 14.2 mm.
Fibroid(s) Multiple uterine fibroids largest measuring .
1. Intramural. Left lateral wall. Size 73.9 mm x 70.1 mm x 57.9 
mm.
Mean 67.3 mm. Vol. 157.051 cm³.
2. Subserous. Posterior. Size 22.5 mm x 27.6 mm x 38.4 mm. Mean 
29.5 mm. Vol. 12.486 cm³.
3. Intramural. Anterior. Left. Size 19.8 mm x 21.3 mm x 22.2 mm. 

Mean 21.1 mm. Vol. 4.902 cm³.
  
Right Ovary
===========
  
Visualized. Size 3.1 cm x 2.9 cm x 3.5 cm. Mean 3.2 cm. Vol. 
16.6 cm³.
Follicle(s) 1< 10 mm.
  
Left Ovary
==========
  
Normal. Size 3.1 cm x 2.4 cm x 1.8 cm. Mean 2.4 cm. Vol. 6.7 
cm³.
Follicle(s) 1< 10 mm.
  
Cul de Sac
==========
  
Normal. No free fluid visualized.
  
Impression
===========
  
Intrauterine device seen within endometrial cavity, measuring 
1.9-2.4 cm from the uterine 
fundus to just above the level of the internal os. Although 3D 
imaging is difficult to obtain 
due to shadowing from multiple uterine fibroids.
Multiple uterine fibroids, the largest three measuring 67 mm, 30 
mm and 21 mm.
Ovaries bilaterally within normal limits. No free pelvic fluid 
seen.
 
Past Medical History:
PMH: HTN, migraines
PSH: knee arthroscopy, hysteroscopy/polypectomy, tubal ligation
 
Social History:
___
Family History:
non contributory
 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Pertinent Results:
___ 10:05PM BLOOD WBC-8.8# RBC-4.05 Hgb-10.7* Hct-34.3 
MCV-85 MCH-26.4 MCHC-31.2* RDW-15.2 RDWSD-46.4* Plt ___
___ 02:00PM BLOOD WBC-4.0 RBC-3.96 Hgb-10.4* Hct-32.6* 
MCV-82# MCH-26.3# MCHC-31.9* RDW-15.4 RDWSD-45.8 Plt ___
___ 10:05PM BLOOD Glucose-155* UreaN-17 Creat-0.8 Na-136 
K-3.9 Cl-99 HCO3-23 AnGap-18
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing total laparoscopic hysterectomy and bilateral 
salpingectomy for pelvic pain and endometriosis. Please see the 
operative report for full details.
Her post-operative course was as follows:  Immediately post-op, 
her pain was controlled with PO oxycodone, tylenol, and 
acetaminophen.  Her urine output in the PACU was on the lower 
side, thought to be secondary to under-resuscitation, and 
improved with maintenance IV fluids.  Labs were notable for a 
hematocrit of 34 (stable from 32 pre-operatively) and a 
creatinine of 0.8.  She was restarted on maintenance IV fluids, 
and her oliguria improved.  On post-operative day 1, her urine 
output was adequate so her foley was removed and she passed a 
voiding trial (was back filled 300 cc's, and was bladder scanned 
for 0 cc's after voiding). Her diet was advanced without 
difficulty.
By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with instructions for outpatient follow-up.
 
Medications on Admission:
atenolol 50 mg daily, lorazepam 1 mg BID, sertraline, imitrex, 
 
Discharge Medications:
percocet
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pelvic Pain, heavy menses

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___